US08455613B2
Step 2: Tert-butyl 4-(3,5-dibromophenoxy)butylcarbamate
4-(3,5-dibromophenoxy)butan-1-amine (397 mg, 1.23 mmol) was dissolved in anhydrous THF (24.6 mL) under nitrogen. Di-tert-butyl dicarbonate (423 mL, 1.84 mmol) was added to the mixture and refluxed reaction at 40° C. for 2 hours. After extraction of the reaction with dichloromethane (2×50 mL), the organic layers were combined, washed with saturated NaHCO3, water, and brine, then dried over MgSO4, and filtered. The solvent is removed and the residue is purified by column chromatography (9:1, hexanes: EtOAc) to give a white solid (306 mg, 59%).

reactant | 4-(3,5-dibromophenoxy)butan-1-amine | 1.23 mmol, 397 mg | BrC=1C=C(OCCCCN)C=C(C1)Br | C10H13Br2NO
reactant | Di-tert-butyl dicarbonate | 1.84 mmol, 423 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 24.6 mL | C1CCOC1 | C4H8O
product | Tert-butyl 4-(3,5-dibromophenoxy)butylcarbamate | 306 mg, 59% | BrC=1C=C(OCCCCNC(OC(C)(C)C)=O)C=C(C1)Br | C15H21Br2NO3
